US08222424B2
2-Chloro-5-(4-phenylethynyl-benzoyl)-benzenesulfonamide
To a degassed solution of 5-(4-bromo-benzoyl)-2-chloro-benzenesulfonamide (500 mg, 1.33 mmol), phenylacetylene (204 mg, 2.00 mmol), copper iodide (15 mg), triphenylphosphine (9 mg, 0.033 mmol) and triethylamine (0.278 mL, 2 mmol) in tetrahydrofuran (4 mL) is added dichlorobis(triphenylphosphine)-palladium (47 mg, 0.067 mmol). The reaction mixture is allowed to stir at room temperature for 18 hours then poured into water (25 mL) and extracted twice with ethyl acetate. The organic fractions are combined, washed twice with a saturated sodium chloride solution, dried with magnesium sulfate, filtered and concentrated in vacuo. The resulting residue is purified via silica gel chromatography (20-50% ethyl acetate in hexanes) to yield the title compound as a white solid. MS (m/z): 394 (M−1).

reactant | 5-(4-bromo-benzoyl)-2-chloro-benzenesulfonamide | 1.33 mmol, 500 mg | BrC1=CC=C(C(=O)C=2C=CC(=C(C2)S(=O)(=O)N)Cl)C=C1 | C13H9BrClNO3S
reactant | phenylacetylene | 2.00 mmol, 204 mg | C1(=CC=CC=C1)C#C | C8H6
reactant | triphenylphosphine | 0.033 mmol, 9 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 2 mmol, 0.278 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
catalyst | copper iodide | 15 mg | [Cu](I)I
catalyst | dichlorobis(triphenylphosphine)-palladium | 0.067 mmol, 47 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 25 mL | O | H2O
product | 2-Chloro-5-(4-phenylethynyl-benzoyl)-benzenesulfonamide | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)C#CC1=CC=CC=C1)=O)S(=O)(=O)N | C21H14ClNO3S
